US05854268
4. 1-{3-[5-(Imidazol-1-yl)-1H-indol-3-yl]propyl}-4-ketopiperidine
The title compound was prepared from 4-(imidazol-1-yl)-phenylhydrazine dihydrochloride and 5-(4-hydroxypiperidin-1-yl)-pentanal dimethyl acetal using a similar method to that described for Example 8 (steps 3 and 4); δH (250 MHz, CDCl3) 1.96 (2H, qn, d=7.5 Hz), 2.46 (4H, t, J=6.1 Hz), 2.56 (2H, t, J=7.4 Hz), 2.76 (4H, t, J=6.1 Hz), 2.84 (2H, t, J=7.5 Hz), 7.13 (1H, d, J=2.2 Hz), 7.18-7.23 (2H, m), 7.30 (1H, t, J=1.2 Hz), 7.44 (1H, d, J=8.5 Hz), 7.58 (1H, d, J=2.1 Hz), 7.84 (1H, t, J=1.0 Hz), 8.41 (1H, br s); m/e (ES) 323 (M+ +1).

reactant | 4-(imidazol-1-yl)-phenylhydrazine dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(C=C1)NN
reactant | 5-(4-hydroxypiperidin-1-yl)-pentanal dimethyl acetal | COC(CCCCN1CCC(CC1)O)OC | C12H25NO3
product | 1-{3-[5-(Imidazol-1-yl)-1H-indol-3-yl]propyl}-4-ketopiperidine | N1(C=NC=C1)C=1C=C2C(=CNC2=CC1)CCCN1CCC(CC1)=O | C19H22N4O
